### PR TITLE
[Merged by Bors] - feat(SetTheory/Order/Basic): not_lt_iff_not_le_or_ge

### PR DESCRIPTION
**Pull request by tristan-f-r**
Adds `not_lt_iff_not_le_or_ge` to produce `not_lt` in complement of `not_lf` and `not_le`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by vihdzp** [comment]
a) This should not be a `simp` lemma
b) Once the definition of `LF` is unfolded, this just gives `¬ x < y ↔ ¬ y < x ∨ x ≤ y`. You should be able to prove this for preorders in general, can you do that?

**Comment by LeoDog896** [comment]
> b) Once the definition of `LF` is unfolded, this just gives `¬ x < y ↔ ¬ x ≤ y ∨ y ≤ x`. You should be able to prove this for preorders in general, can you do that?

If so, would it be best to keep this `not_lt` theorem?

**Comment by vihdzp** [comment]
You can keep it for now. But I do plan in the future to remove `LF`, or at least keep it only as a notation for `¬ y ≤ x`.

File: Mathlib/Order/Defs/PartialOrder.lean [hunk 1]
```diff
@@ -104,6 +104,19 @@ def decidableLTOfDecidableLE [DecidableRel (α := α) (· ≤ ·)] : DecidableRe
...
+variable [DecidableRel (α := α) (· ≤ ·)]
+
+lemma not_lt_iff_not_le_or_ge : ¬a < b ↔ ¬a ≤ b ∨ b ≤ a := by
+  rw [lt_iff_le_not_le, not_and_iff_or_not_not, not_not]
+
+end Decidable
+
+attribute [local instance] Classical.propDecidable
+
+lemma not_lt_iff_not_le_or_ge : ¬a < b ↔ ¬a ≤ b ∨ b ≤ a := Decidable.not_lt_iff_not_le_or_ge
```
Comment (LeoDog896) [inline Mathlib/Order/Defs/PartialOrder.lean:118]: Is there a better name for this? I used _ge_ here as this can be rewritten as `a >= b`, but I don't believe that's the correct naming scheme. I wasn't able to find a good example to base the name off, though.

Comment (vihdzp) [reply Mathlib/Order/Defs/PartialOrder.lean:118]: I think it's fine using `ge` when it refers to the opposite order relation to one which is also included in the theorem statement.

File: Mathlib/Order/Defs/PartialOrder.lean [hunk 2]
```diff
@@ -104,6 +104,19 @@ def decidableLTOfDecidableLE [DecidableRel (α := α) (· ≤ ·)] : DecidableRe
       else isTrue <| lt_of_le_not_le hab hba
     else isFalse fun hab' => hab (le_of_lt hab')
 
+namespace Decidable
+
+variable [DecidableRel (α := α) (· ≤ ·)]
+
+lemma not_lt_iff_not_le_or_ge : ¬a < b ↔ ¬a ≤ b ∨ b ≤ a := by
```
Comment (vihdzp) [inline Mathlib/Order/Defs/PartialOrder.lean:111]: I don't really think we need a decidable version of this.

Comment (LeoDog896) [reply Mathlib/Order/Defs/PartialOrder.lean:107]: :+1: (This isn't an argument for having a decidable version of this, but I'm curious why it wouldn't be a good idea for this case. Is it because it introduces a new namespace when no other lemmas that require decidability exist?)

**Comment by vihdzp** [comment]
It is a stronger relation, and that's the issue. Mathematically, the games {0, 0 | } and {0 | } are entirely the same, because their left and right sets are the same. But in the way we set `PGame` up, these two are non-equal, and in fact, they're not even relabellings of each other, even though they are identical.

The distinction between these two games is an artifact of our type theoretic foundations, and isn't really mathematical, which is why we (at the very least I) want to get rid of the relabelling notion which does take it into account.

File: Mathlib/Order/Defs/PartialOrder.lean [hunk 3]
```diff
@@ -104,6 +104,9 @@ def decidableLTOfDecidableLE [DecidableRel (α := α) (· ≤ ·)] : DecidableRe
       else isTrue <| lt_of_le_not_le hab hba
     else isFalse fun hab' => hab (le_of_lt hab')
 
+lemma not_lt_iff_not_le_or_ge : ¬a < b ↔ ¬a ≤ b ∨ b ≤ a := by
+  rw [lt_iff_le_not_le, Classical.not_and_iff_or_not_not, Classical.not_not]
```
Comment (vihdzp) [inline Mathlib/Order/Defs/PartialOrder.lean:108]: I think this should work:
```suggestion
  rw [lt_iff_le_not_le, not_and_or, Classical.not_not]
```
Otherwise LGTM.

**Review by vihdzp — APPROVED** [review]

File: Mathlib/Order/Defs/PartialOrder.lean (hunk 3 above)
Comment (LeoDog896) [reply Mathlib/Order/Defs/PartialOrder.lean]: This imports `Mathlib.Logic.Basic`. It seems to only import the 1000 lines in the file, and the rest are just tactics - I'm unsure if that's a 'good' large import in mathlib4.

Comment (vihdzp) [reply Mathlib/Order/Defs/PartialOrder.lean]: In any case your original proof avoids this large import issue, so I retract my suggestion.

File: Mathlib/SetTheory/Game/PGame.lean [hunk 4]
```diff
@@ -633,6 +633,8 @@ theorem lf_irrefl (x : PGame) : ¬x ⧏ x :=
 instance : IsIrrefl _ (· ⧏ ·) :=
   ⟨lf_irrefl⟩
 
+protected theorem not_lt {x y : PGame} : ¬(x < y) ↔ y ⧏ x ∨ y ≤ x := not_lt_iff_not_le_or_ge
```
Comment (vihdzp) [inline Mathlib/SetTheory/Game/PGame.lean:636]:
```suggestion
protected theorem not_lt {x y : PGame} : ¬ x < y ↔ y ⧏ x ∨ y ≤ x := not_lt_iff_not_le_or_ge
```

**Review by vihdzp — COMMENTED** [review]
Sorry, I had missed this improvement.

File: Mathlib/Order/Defs/PartialOrder.lean [hunk 5]
```diff
@@ -104,6 +104,9 @@ def decidableLTOfDecidableLE [DecidableRel (α := α) (· ≤ ·)] : DecidableRe
       else isTrue <| lt_of_le_not_le hab hba
     else isFalse fun hab' => hab (le_of_lt hab')
 
+lemma not_lt_iff_not_le_or_ge : ¬a < b ↔ ¬a ≤ b ∨ b ≤ a := by
```
Comment (b-mehta) [inline Mathlib/Order/Defs/PartialOrder.lean:107]: It seems to me that this would fit better early in Order/Basic?

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/Order/Defs/PartialOrder.lean (hunk 5 above)
Comment (LeoDog896) [reply Mathlib/Order/Defs/PartialOrder.lean]: Agreed. I'm unfamiliar with the Order section of Mathlib, but that seems more appropriate.
